Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
LLE Charcot Foot

 
Major Surgical or Invasive Procedure:
Below the knee amputation

 
History of Present Illness:
___ nondiabetic male with bilateral Charcot foot and left foot 
ulcer who presents for a L BKA.  He has had idiopathic 
peripheral neuropathy since ___ which began after he tripped 
and fell. Since then he has had numerous negative workups 
regarding the etiology of his neuropathy.  He is currently being 
followed by Pain Management and Neurology for treatment and 
workup of his neuropathy.  Furthermore, he has had numerous 
failed attempts at reconstruction.  He is being followed by Dr. 
___ surgeon at ___, and by Dr. ___ 
___ Surgeon.  He is being admitted preoperatively 
for his BKA to receive IV Ketamine by Anesthesiology. He denies 
recent F/C/N/V/CP/SOB. He has been ambulating, but in a limited 
fashion. He denies drainage or erythema surrounding his ulcer 
and states that it has been dry for some time. 

 
Past Medical History:
PMH: Charcot, degenerative disease of the foot, ankle, central 
cord syrinx, polyneuropathy.  He also received left foot fusion 
and the two other operations of the left foot and ankle and a 
right foot surgery. 

PSH: Fat pad biopsy (Amyloidosis ruled out), left foot fusion in 
___, exostectomy of the left foot in ___, another exostectomy 
in ___ and a more recent exostectomy in later ___.

 
Social History:
___
Family History:
FamHx:  His mother who is ___ has moderate Alzheimer's disease. 
Father died at ___ of stroke.  Two sisters and a brother in good 
health without any neurological problems. Father's side of the 
family history is really not very well known.

 
Physical Exam:
PE: AF AVSS
NAD. A&Ox3. 
Anicteric. MMM.
No carotid bruits. 
RRR. No m/g/r.
CTAB.
Soft. NT. ND. +BS. No palpable masses. 
Warm and well perfused. No peripheral edema. Deformed B feet c/w
Charcot's. 2x2cm dry eschar/ulcer on the plantar surface on the
forefoot without surrounding erythema or drainage. 
  car  rad  fem  pop  DP  ___
R  2+  2+   2+   2+   2+  2+
L  2+  2+   2+   2+   2+  2+
Sensation and motor grossly intact.   

 
Pertinent Results:
PA AND LATERAL CHEST RADIOGRAPHS: The heart size is normal. 
Mediastinal and hilar contours are unremarkable. The lungs are 
clear. There is no pleural effusion and no pneumothorax. Osseous 
structures are unremarkable.

IMPRESSION: No acute cardiopulmonary process.

 
Brief Hospital Course:
The patient was admitted to Vascular surgery preoperatively for 
IV ketamine via anesthesiology.  The patient was preop'd and 
consented and on ___ underwent a Left BKA.  An epidural was 
placed preoperatively by anesthesiology, and the patient 
tolerated the procedure well with no complications.  In the 
PACU, the dressing was reinforced ___ breakthrough bleeding.  On 
the night of POD 0, the patient's dressing was taken down and 2 
horizontal mattress stitches were placed to close off areas of 
bleeding.  The patient had no further post operative 
complications.  Physical therapy and occupational therapy 
evaluated the patient, and the patient will be discharged to 
rehab. Acute Pain Service managed his pain control and on POD 
__one___ the epidural was removed without complication and the 
patient's foley was subsequently removed.
___ patient's pca and ketamin gtt discontinued oxycontin 30 bid 
and percoset ___ tabs q4-6 hrs prn started.
___  Upon discharge, the patient is afebrile with all vitals 
stable, tolerating po feeds, and with pain controlled on po pain 
medication.
 
Medications on Admission:
Clonazepam 1mg TID, Methylphenidate 54 mg Daily, Topiramate 
50-100 mg QHS, Tramadol 50 mg TID PRN, Acetaminophen 500 mg PRN, 
Multivitamin 1 TAB DAILY (Thera Plus)

 
Discharge Medications:
1. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
2. Topiramate 100 mg Tablet Sig: ___ Tablets PO QHS (once a day 
(at bedtime)).  
3. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed.  
4. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
6. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.  
7. OxyContin 30 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO twice a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left charcot foot
histroy of idiopathic perpheral neuropathy with chronic pain

 
Discharge Condition:
Stable

 
Discharge Instructions:
This information is designed as a guideline to assist you in a 
speedy recovery from your surgery. Please follow these 
guidelines unless your physician has specifically instructed you 
otherwise. Please call our office nurse if you have any 
questions. Dial 911 if you have any medical emergency.
.
ACTIVITY: 
There are restrictions on activity. On the side of your below 
the knee amputation you are non weight bearing for ___ weeks. 
You should keep this amputation site elevated when ever 
possible. No stump shrinkers

No driving until cleared by your Surgeon.
.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:

Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR. 

Exercise:
No strenuous activity for 6 weeks. 
Do not drive a car unless cleared by your Surgeon. 
No heavy lifting greater than 20 pounds for the next ___ days. 
Try to keep leg elevated when able.

BATHING/SHOWERING: 
You may shower immediately upon coming home. No bathing. A 
dressing may cover you’re amputation site and this should be 
left in place for three (3) days. Remove it after this time and 
wash your incision(s) gently with soap and water. You will have 
sutures, which are usually removed in 4 weeks. This will be done 
by the Surgeon on your follow-up appointment.

WOUND CARE:
Sutures / Staples may be removed before discharge. If they are 
not, an appointment will be made for you to return for staple 
removal. 

When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.

Avoid taking a tub bath, swimming, or soaking in a hot tub for 
four weeks after surgery. 
Skin clips on amputation stump remain in place until seen in 
followup with ___

___: 
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. You will be given a 
new prescription for pain medication, which can be taken every 
three (3) to four (4) hours only if necessary. 

Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day.

CAUTIONS:

NO SMOKING! We know you've heard this before, but it really is 
an important step to your recovery. Smoking causes narrowing of 
your blood vessels which in turn decreases circulation. If you 
smoke you will need to stop as soon as possible. Ask your nurse 
or doctor for information on smoking cessation.

Avoid pressure to your amputation site.

No strenuous activity for 6 weeks after surgery. 

DIET:

There are no special restrictions on your diet postoperatively. 
Poor appetite is expected for several weeks and small, frequent 
meals may be preferred. 

FOLLOW-UP APPOINTMENT: 
Be sure to keep your medical appointments. The key to your 
improving health will be to keep a tight reign on any of the 
chronic medical conditions that you have. Things like high blood 
pressure, diabetes, and high cholesterol are major villains to 
the blood vessels. Don't let them go untreated! 

Please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.

PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE

 
Followup Instructions:
___